US05849930
Synthesis of 4--geranyloxybenzylalcohol.
To a suspension of lithium aluminum hydridete (7.59 g) in trahydrofuran (200 ml) was added a solution of the raw product of methyl 4-geranyloxybenzoate in tetrahydrofuran anhydride (100 ml) dropwise while being cooled with ice. After being stirred for 1 hour at room temperature, the reaction solution, with water (200 ml) added thereto, was extracted with ethyl acetate (400 ml). The extract was dried over sodium sulfite anhydride and then the solvent was evaporated under a vacuum. The residue was recrystallized from an n-hexane/ethyl acetate mixed solution, thereby yielding 34.4 g (66%) of the aimed compound.

reactant | lithium aluminum | 7.59 g | [Al].[Li]
reactant | methyl 4-geranyloxybenzoate | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)OC)C=C1 | C18H24O3
solvent | water | 200 ml | O | H2O
product | 4--geranyloxybenzylalcohol | 34.4 g, 66% | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(CO)C=C1 | C17H24O2
